US04714492
Sodium 1-methyl-6-phenyl-2-propyl-4-oxonicotinate
2.1 g (0.0067 mol) of 1-methyl-6-phenyl-2-propyl-4-oxonicotinic acid is suspended in 50 ml of methanol and to it there is added 0.295 g (0.0074 mol) of sodium hydroxide pellets. The solution is concentrated in vacuo to afford 1.9 g (97% yield) of product.

reactant | 1-methyl-6-phenyl-2-propyl-4-oxonicotinic acid | 0.0067 mol, 2.1 g | CN1C(=C(C(=O)O)C(C=C1C1=CC=CC=C1)=O)CCC | C16H17NO3
reactant | sodium hydroxide | 0.0074 mol, 0.295 g | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | Sodium 1-methyl-6-phenyl-2-propyl-4-oxonicotinate | 1.9 g, 97% yield | CN1C(=C(C(=O)[O-])C(C=C1C1=CC=CC=C1)=O)CCC.[Na+] | InChI=1S/C16H17NO3.Na/c1-3-7-12-15(16(19)20)14(18)10-13(17(12)2)11-8-5-4-6-9-11;/h4-6,8-10H,3,7H2,1-2H3,(H,19,20);/q;+1/p-1
